US07157490B2
Step A: 2,2,2-Trifluoro-N′-(5-iodopyridin-2-yl)acetohydrazide
To a solution of 5-iodo-2-hydrazinopyridine (235 mg, 1 mmol) in trifluoroacetic acid (1.5 mL) in a thick-walled resealable tube was added trifluoroacetic anhydride (0.356 mL, 2.5 mmol). The mixture was warmed to 50° C. After 18 h, the mixture was concentrated to dryness under reduced pressure. The resultant residue was purified by preparative thin layer chromatography (silica, 5% methanol/dichloromethane) to afford the product. LC/MS 331.8 (M+1)

reactant | 5-iodo-2-hydrazinopyridine | 1 mmol, 235 mg | IC=1C=CC(=NC1)NN | C5H6IN3
reactant | trifluoroacetic anhydride | 2.5 mmol, 0.356 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2,2,2-Trifluoro-N′-(5-iodopyridin-2-yl)acetohydrazide | FC(C(=O)NNC1=NC=C(C=C1)I)(F)F | C7H5F3IN3O
